US05071875
Using a procedure similar to that described in Example 1, 0.26 g of 2-amino-tetralin yielded 0.25 g (86%) of 2-propionamido-tetralin following treatment with propionic anhydride.

reactant | 2-amino-tetralin | 0.26 g | NC1CC2=CC=CC=C2CC1 | C10H13N
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-propionamido-tetralin | 0.25 g, 86% | C(CC)(=O)NC1CC2=CC=CC=C2CC1 | C13H17NO
